US06184208B2
(b) Preparation of Boc-D-Orn(Z)-Phe-D-Ala-OH
6.5 g (18.0 mmol) of Z-Phe-D-Ala-OH was dissolved in 15 ml methanol and 2 ml formic acid. 0.2 g palladium catalyst was added and hydrogen was passed through the solution for 3 hours. The catalyst was removed by filtration, and the solvents were evaporated under vacuum. The residue was flooded with ether. The precipitate was filtered off, rinsed with ether and dried. The yield of H-Phe-D-Ala-OH was 5.3 g (98.1%). Rf=0.01 in chloroform:ethyl acetate:methanol:acetic acid=6:3:1:0.1. Rf=0.45 in acetic acid:chloroform:methanol=1:3:2:2. 8.0 g (15.0 mmol) of pentafluorophenyl ester of Boc-D-Orn(Z)-OPfp was dissolved in 15 ml dioxane. To this was added with mixing 4.3 g (17.7 mmol) H-Phe-D-Ala-OH dissolved in water with pH 8.5. The reaction mixture was stirred for a day and a night at room temperature. The solvents were evaporated under vacuum, 70 ml ethyl acetate was added, and the mixture was acidified to pH 2-3 by the addition of 2% sulfuric acid solution. The peptide was extracted twice with 70 ml ethyl acetate, washed with saturated sodium chloride solution to neutral pH and dried over anhydrous sodium sulfate. The solvent was removed by evaporation under vacuum leaving a thick oil. The product was crystallized from ethyl acetate with ether and hexane. The yield was 6.92 g (74.4%), and the melting point was 145° C. Rf=0.44 in acetic acid:chloroform;methanol=0.5:16:1. Rf=0.32 in chloroform:ethyl acetate:methanol=6:3:1.

reactant | Z-Phe-D-Ala-OH | 18.0 mmol, 6.5 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H22N2O5
reactant | hydrogen | [H][H] | H2
reactant | Boc-D-Orn(Z)-OPfp | N([C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)OC1=C(F)C(F)=C(F)C(F)=C1F)C(=O)OC(C)(C)C | C24H25F5N2O6
reactant | H-Phe-D-Ala-OH | 17.7 mmol, 4.3 g | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O | C12H16N2O3
solvent | methanol | 15 ml | CO | CH4O
solvent | formic acid | 2 ml | C(=O)O | CH2O2
catalyst | palladium | 0.2 g | [Pd] | Pd
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Boc-D-Orn(Z)-Phe-D-Ala-OH | N([C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O)C(=O)OC(C)(C)C | C30H40N4O8
